US06803457B1
5-Chloro-2-(3-methylisoxazol-5-ylmethoxy)benzylamine
To a flask containing anhydrous 2-propanol (40 mL), hydrazine hydrate (4 mL, and anhydrous THF (60 mL), at room temperature, was added 2-{5-chloro-2-(3-methylisoxazol-5-ylmethoxy)benzyl]isoindole-1,3-dione (5 g, 13 mmol). The reaction was stirred at 50° C. for 3 h. The solids were filtered and washed with THF. The filtrate was concentrated, dissolved in ether (100 ml) and washed with 1N NaOH (1×) and brine, dried (MgSO4), filtered and concentrated to afford the title product as a solid.

reactant | 2-propanol | 40 mL | CC(C)O | C3H8O
reactant | hydrazine hydrate | O.NN
reactant | 2-{5-chloro-2-(3-methylisoxazol-5-ylmethoxy)benzyl]isoindole-1,3-dione | 13 mmol, 5 g | ClC=1C=CC(=C(CN2C(C3=CC=CC=C3C2=O)=O)C1)OCC1=CC(=NO1)C | C20H15ClN2O4
solvent | THF | 60 mL | C1CCOC1 | C4H8O
product | 5-Chloro-2-(3-methylisoxazol-5-ylmethoxy)benzylamine | ClC=1C=CC(=C(CN)C1)OCC1=CC(=NO1)C | C12H13ClN2O2
